US06451734B1
Intermediate 1: Methyl 4-(2,3-dichlorophenyl)-3-oxobutyrate
At 0° C., 36.3 g (0.46 mol) of pyridine and then within 2 hours a solution of 42.5 g (0.19 mol) of 2,3-dichlorophenylacetyl chloride in 100 ml of dichloromethane were added dropwise to a solution of 28.8 g (0.20 mol) of Meldrum's acid in 200 ml of dichloromethane. The mixture was then stirred for 12 hours at about 20° C. and subsequently stirred into 100 ml of 10% strength hydrochloric acid. The organic phase was then separated off and the aqueous phase was extracted two more times with dichloromethane. Finally, the combined extracts were dried over magnesium sulfate and concentrated. The residue was dissolved in 300 ml of methanol and heated under reflux until the formation of gas had ceased. The mixture was then concentrated. Yield: quantitative.

reactant | pyridine | 0.46 mol, 36.3 g | N1=CC=CC=C1 | C5H5N
reactant | 2,3-dichlorophenylacetyl chloride | 0.19 mol, 42.5 g | ClC1=C(C=CC=C1Cl)CC(=O)Cl | C8H5Cl3O
reactant | Meldrum's acid | 0.20 mol, 28.8 g | CC1(OC(=O)CC(=O)O1)C | C6H8O4
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | Methyl 4-(2,3-dichlorophenyl)-3-oxobutyrate | Yield: quantitative | ClC1=C(C=CC=C1Cl)CC(CC(=O)OC)=O | C11H10Cl2O3
